US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(pyridin-4-ylsulfanyl)-ethyl]-phenyl ester
The title compound was prepared as its TFA salt in 5% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 4-mercaptopyridine. NMR (400 MHz; CDCl3): δ 3.07 (t, 2H), 3.36 (t, 2H), 3.44 (br s, 3H), 7.06 (br d, 2H), 7.20 (d, 2H), 7.25–7.43 (m, 7H), 8.51 (d, 2H); HPLC-MS: m/z=365.2 (M+1); Rt=2.53 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
product | Methyl-phenyl-carbamic acid 4-[2-(pyridin-4-ylsulfanyl)-ethyl]-phenyl ester | 5% yield | N1=CC=C(C=C1)SCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C21H20N2O2S
